US04443466
5-Methyl-4-(2'-methylbenzoyl)imidazole
4.9 g of dry magnesium turnings are covered with 50 ml of dry tetrahydrofuran. The mixture is heated to boiling and a solution of 34 g of 2-bromotoluene in 50 ml of dry tetrahydrofuran is added dropwise at such a rate that a smooth reaction is maintained. After the addition is complete, the reaction mixture is refluxed for about 30 minutes until the magnesium turnings no longer react. The reaction mixture is then cooled to about 50° C. and 20 g of 5-methyl-4-imidazole-carboxylic acid methyl ester are added in small portions. After the addition is complete, the mixture is refluxed for another 2 hours and the solvent is then distilled off to give about half of the original volume. The mixture is cooled and poured into 300 ml of cold water containing 15 ml of concentrated sulfuric acid, with agitation. The stirring is continued for an additional 15 minutes and the mixture is then filtered. The pH of the filtrate is adjusted to 7-11 and the solution is extracted three times with 30 ml portions of chloroform. The combined chloroform extracts are washed with water and evaporated to dryness. The residue, which contains the crude product, is converted to the hydrochloride in ethanol. After recrystallization from ethanol, the hydrochloride melts at 289°-291° C. The 5-methyl-4-(2'-methylbenzoyl)-1H-imidazole is liberated from the hydrochloride in water with sodium hydroxide. It melts at 165°-166° C.

reactant | magnesium | 4.9 g | [Mg] | Mg
reactant | 2-bromotoluene | 34 g | BrC1=C(C=CC=C1)C | C7H7Br
reactant | 5-methyl-4-imidazole-carboxylic acid methyl ester | 20 g | COC(=O)C=1N=CNC1C | C6H8N2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 5-Methyl-4-(2'-methylbenzoyl)imidazole | CC1=C(N=CN1)C(C1=C(C=CC=C1)C)=O | C12H12N2O
